US05089507
2-(pyrrolidin-1-yl)carbonyl-4,4-dimethyl piperidine
5 g (0.024 moles) of 4,4-dimethyl pipecolic acid methyl ester hydrochloride were reacted with 100 ml of pyrrolidine as described in Description 22 to yield 5.4 g of the title compound.

reactant | 4,4-dimethyl pipecolic acid methyl ester hydrochloride | 0.024 moles, 5 g | Cl.COC(C1NCCC(C1)(C)C)=O
reactant | pyrrolidine | 100 ml | N1CCCC1 | C4H9N
product | 2-(pyrrolidin-1-yl)carbonyl-4,4-dimethyl piperidine | 5.4 g | N1(CCCC1)C(=O)C1NCCC(C1)(C)C | C12H22N2O
